US07304081B2
Step 5. [(2S,4R)-4-phenylpyrrolidin-2-yl]methanol
Lithium tetrahydroaluminate in tetrahydrofuran (1.00 M, 1.00 mL) was added to methyl (2S,4R)-4-phenylpyrrolidine-2-carboxylate (103.0 mg, 0.0005018 mol) in tetrahydrofuran (3.00 mL, 0.0370 mol) at 0° C. Then the ice-water bath was removed and the reaction mixture was stirred at rt for 1 h and was quenched with brine (1 mL). The resulting mixture was extracted with ethyl acetate (2×2 mL). The combined organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give the desired product which was directly used in the next step without further purification.

reactant | Lithium tetrahydroaluminate | [AlH4-].[Li+]
reactant | methyl (2S,4R)-4-phenylpyrrolidine-2-carboxylate | 0.0005018 mol, 103.0 mg | C1(=CC=CC=C1)[C@H]1C[C@H](NC1)C(=O)OC | C12H15NO2
solvent | tetrahydrofuran | 1.00 M, 1.00 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.0370 mol, 3.00 mL | O1CCCC1 | C4H8O
product | [(2S,4R)-4-phenylpyrrolidin-2-yl]methanol | C1(=CC=CC=C1)[C@H]1C[C@H](NC1)CO | C11H15NO
